US04043994
Nα -t-Butoxycarbonyl-O-benzyl-L-seryl-O-benzyl-L-tyrosyl-D-alanyl-L-leucine methyl ester is prepared from 10 mmoles of O-benzyl-L-tyrosyl-D-alanyl-L-leucine methyl ester is prepared from 10 mmoles of O-benzyl-L-tyrosyl-D-alanyl-L-leucine methyl ester trifluoroacetic acid salt by neutralizing to litmus with triethylamine in the cold and then adding 1.4 ml. (10 mmol) of additional triethylamine (pH 8.5). The cold solution is treated with 2.95 g. (10 mmol) of Nα -t-butoxycarbonyl-O-benzyl-L-serine, 1.35 g. of 1-hydroxybentriazole and 2.2 g. of dicyclohexylcarbodiimide. The mixture is stirred for two and one-half hours at -5° C. and overnight at room temperature. The mixture is filtered, the solid rinsed with dimethylformamide and the filtrate evaporated at 40° C. under reduced pressure. The residue is dissolved in 50 ml. of ethyl acetate and 200 ml. of ether and washed three times with 5% sodium bicarbonate solution and with saturated salt solution, dried over magnesium sulfate and evaporated. The residue is crystallized from a minimum of methanol by adding ether; 6.6 g. The product is recrystallized from methanol-ether; 6 g.; m.p. 67°-71° C.

reactant | O-benzyl-L-tyrosyl-D-alanyl-L-leucine methyl ester | 10 mmoles | COC([C@@H](NC([C@H](NC([C@@H](N)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)C)=O)CC(C)C)=O | C26H35N3O5
reactant | O-benzyl-L-tyrosyl-D-alanyl-L-leucine methyl ester trifluoroacetic acid salt | 10 mmoles | FC(C(=O)O)(F)F.COC([C@@H](NC([C@H](NC([C@@H](N)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)C)=O)CC(C)C)=O
reactant | Nα -t-butoxycarbonyl-O-benzyl-L-serine | 10 mmol | C(C)(C)(C)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 10 mmol, pH 8.5 | C(C)N(CC)CC | C6H15N
product | Nα -t-Butoxycarbonyl-O-benzyl-L-seryl-O-benzyl-L-tyrosyl-D-alanyl-L-leucine methyl ester | COC([C@@H](NC([C@H](NC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)COCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)C)=O)CC(C)C)=O | C41H54N4O9
